US05371096
A solution of 4.59 g (0.0256 mole) of 5-hydroxy-1-(3-pyridyl)pentan-1-one, 3.82 g (0.0561 mole) of imidazole 7.76 g (0.0282 mole) of tert-butyldiphenylsilylchloride in 10 ml of dimethylformamide is stirred at room temperature for 15 h, diluted with 75 ml of water and extracted with ethyl acetate (2×50 ml). The extracts are washed with water and brine, dried (MgSO4) and evaporated. The residue is purified by flash chromatography using methylene chloride-ethyl acetate (4:1) as eluent to give 5-(t-butyldiphenylsilyloxy)-1-(3-pyridyl)pentan-1-one as an oil.

reactant | 5-hydroxy-1-(3-pyridyl)pentan-1-one | 0.0256 mole, 4.59 g | OCCCCC(=O)C=1C=NC=CC1 | C10H13NO2
reactant | imidazole | 0.0561 mole, 3.82 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilylchloride | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 75 ml | O | H2O
product | 5-(t-butyldiphenylsilyloxy)-1-(3-pyridyl)pentan-1-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCC(=O)C=1C=NC=CC1 | C26H31NO2Si
